US08377954B2
To a solution of 2-bromo-4-fluoroaniline (5.0 g, 26.3 mmol) in DMF/water (80/20 v/v, 65.8 ml) under an atmosphere of nitrogen were added 4-(methanesulfonyl)phenylboronic acid (7.9 g, 39.5 mmol), tris(4,6-dimethyl-3-sulfanatophenyl)phosphine trisodium salt hydrate (2.6 g, 4.0 mmol), palladium(II) acetate (0.3 g, 1.3 mmol), and diisopropyl amine (11.3 ml, 79.0 mmol). The reaction was allowed to stir at 50° C. for 2.5 h. The reaction was diluted with EtOAc and washed with 3M LiCl (3×), water, and brine. The organic portion was dried over sodium sulfate, filtered, and concentrated in vacuo to afford 4-fluoro-4′-(methylsulfonyl)-1,1′-biphenyl-2-amine as a yellow solid (95%). LCMS (M+H) 266.1. 1H NMR (400 MHz, CD3OD) δ 8.02 (m, 2H), 7.65 (m, 2H), 7.05 (dd, J=8.6, 6.2 Hz, 1H), 6.57-6.47 (m, 2H), 3.86 (s, 2H), 3.11 (s, 3H).

reactant | 2-bromo-4-fluoroaniline | 26.3 mmol, 5.0 g | BrC1=C(N)C=CC(=C1)F | C6H5BrFN
reactant | 4-(methanesulfonyl)phenylboronic acid | 39.5 mmol, 7.9 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | tris(4,6-dimethyl-3-sulfanatophenyl)phosphine trisodium salt hydrate | 4.0 mmol, 2.6 g | CC1=CC(=C(C=C1P(C2=CC(=C(C=C2C)C)S(=O)(=O)[O-])C3=CC(=C(C=C3C)C)S(=O)(=O)[O-])S(=O)(=O)[O-])C.O.[Na+].[Na+].[Na+]
reactant | diisopropyl amine | 79.0 mmol, 11.3 ml | C(C)(C)NC(C)C | C6H15N
solvent | DMF water | 65.8 ml | CN(C)C=O.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 1.3 mmol, 0.3 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-fluoro-4′-(methylsulfonyl)-1,1′-biphenyl-2-amine | 95% | FC=1C=C(C(=CC1)C1=CC=C(C=C1)S(=O)(=O)C)N | C13H12FNO2S
